US05498630
N-Ethyl-2-(trimethylsilyl)-3-thiophenecarboxamide
1.3M s-BuLi in cyclohexane (37.23 mL, 48.4 mmol) was added dropwise to a dry-ice/acetone cooled solution of N-ethyl-3-thiophenecarboxamide (3.41 g, 22 mmol) and TMEDA (5.62 g, 48.4 mmol) in THF (100 mL). After stirring for 30 min at -78° C., TMSCl (5.26 g, 48.4 mmol) was added in a single portion. The reaction was allowed to slowly warm to -10° C. over 1 h, then was quenched with dilute aq citric acid and extracted with ethyl acetate (3X). The combined organic solutions were dried (MgSO4), concentrated, and purified by HPLC with 3:7 EtOAc/hexanes to give 1.4 g of the title compound as a white solid, a 28% yield. m.p. 114°-116° C.

reactant | s-BuLi | 1.3M | [Li]C(C)CC
reactant | cyclohexane | 48.4 mmol, 37.23 mL | C1CCCCC1 | C6H12
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | N-ethyl-3-thiophenecarboxamide | 22 mmol, 3.41 g | C(C)NC(=O)C1=CSC=C1 | C7H9NOS
reactant | TMEDA | 48.4 mmol, 5.62 g | CN(C)CCN(C)C | C6H16N2
reactant | TMSCl | 48.4 mmol, 5.26 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-Ethyl-2-(trimethylsilyl)-3-thiophenecarboxamide | 1.4 g, 28% yield | C(C)NC(=O)C1=C(SC=C1)[Si](C)(C)C | C10H17NOSSi
